US06727249B2
(1R*,2R*,5S*,6S*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-8-azabicyclo[3.2.1]octan-6-carboxylic acid semicarbazide
A mixture of (1R*,2R*,5S*,6S*)-8-benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane (Description 22; 250 mg, 0.4 mmol), trifluoroacetic acid (0.8 ml) and dichloromethane (1.2 ml) was stirred at room temperature overnight and concentrated in vacuo. The residue was treated with semicarbazide hydrochloride (355 mg, 3.2 mmol), triethylamine (1 ml, 7.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (457 mg, 4.2 mmol), and 4-N,N-dimethylaminopyridine (35 mg, 0.28 mmol). The mixture was stirred at room temperature over weekend, quenched with saturated aqueous NaHCO3 and extracted into dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (dichloromethane:methanol:ammonia) to give the title compound (278 mg, 55%).

reactant | (1R*,2R*,5S*,6S*)-8-benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane | 0.4 mmol, 250 mg | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@H](C2)C(=O)OC(C)(C)C)OCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C34H35F6NO3
reactant | trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | semicarbazide hydrochloride | 3.2 mmol, 355 mg | Cl.NNC(=O)N
reactant | triethylamine | 7.2 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.2 mmol, 457 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
product | (1R*,2R*,5S*,6S*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-8-azabicyclo[3.2.1]octan-6-carboxylic acid semicarbazide | 278 mg, 55% | NNC(=O)N.C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@H](C2)C(=O)O)OCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | InChI=1S/C30H27F6NO3.CH5N3O/c31-29(32,33)22-13-20(14-23(15-22)30(34,35)36)18-40-26-12-11-25-24(27(38)39)16-28(26,21-9-5-2-6-10-21)37(25)17-19-7-3-1-4-8-19;2-1(5)4-3/h1-10,13-15,24-26H,11-12,16-18H2,(H,38,39);3H2,(H3,2,4,5)/t24-,25-,26+,28+;/m0./s1
